US05290939
In the course of 30 minutes, at from 40° to 60°, 18 g of hydrogen chloride are introduced into a solution of 49.8 g of 2-hydroxy-5-methoxy-benzyl alcohol and 115.8 g of triphenylphosphane in 150 ml of acetonitrile. The reaction mixture is then stirred for 5 hours at 75°, the product beginning to crystallise after approx. 30 minutes. The reaction mixture is cooled to 0°, stirred for a further one hour and then at that temperature the crystals are filtered off with suction. [(2-Hydroxy-5-methoxy-phenyl)methyl]-triphenyl-phosphonium chloride is thus obtained in the form of colourless crystals [m.p.: 270° (decomposition); IR (KBr): 2990, 1585, 1395, 1295, 1240, 1145, 995 cm-1 ; 1H-NMR (360 MHz, CH3OH-d4 : 3.47 (s, 3H, OCH3), 4.74 (d, 2H, CH2P+), 6.40 (dd, 1H), 6.62 (d, 1H), 6.73 (m, 1H), 7.56 to 7.72 (m, 12H), 7.87 (m, 3H) ppm]; yield 78% of the theoretical yield.

reactant | hydrogen chloride | 18 g | Cl | ClH
reactant | 2-hydroxy-5-methoxy-benzyl alcohol | 49.8 g | OC1=C(CO)C=C(C=C1)OC | C8H10O3
reactant | triphenylphosphane | 115.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | [(2-Hydroxy-5-methoxy-phenyl)methyl]-triphenyl-phosphonium chloride | yield 78% | [Cl-].OC1=C(C=C(C=C1)OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H23O2P.ClH/c1-28-22-17-18-26(27)21(19-22)20-29(23-11-5-2-6-12-23,24-13-7-3-8-14-24)25-15-9-4-10-16-25;/h2-19H,20H2,1H3;1H
